US07109218B2
2-Amino-4-[4-(2-methoxyethoxy)phenyl]-6-[(2-phenyl-1,3-thiazol-4-yl)methyl -sulphanyl]pyridine-3,5-dicarbonitrile
100 mg (0.31 mmol) of 2-amino-4-[4-(2-methoxyethoxy)phenyl]-6-sulphanyl-pyridine-3,5-dicarbonitrile are dissolved in 1 ml of DMF. 103 mg (1.23 mmol) of sodium bicarbonate and 96.4 mg (0.46 mmol) of 4-chloromethyl-2-phenyl-1,3-thiazole are then added. The suspension is shaken at RT overnight, and water is added. The precipitate is filtered off with suction, washed with ethanol and diethyl ether and dried at 40° C. under reduced pressure. This gives 149 mg (97% theory) of product.

reactant | 2-amino-4-[4-(2-methoxyethoxy)phenyl]-6-sulphanyl-pyridine-3,5-dicarbonitrile | 0.31 mmol, 100 mg | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCOC)C#N)S | C16H14N4O2S
reactant | sodium bicarbonate | 1.23 mmol, 103 mg | C([O-])(O)=O.[Na+]
reactant | 4-chloromethyl-2-phenyl-1,3-thiazole | 0.46 mmol, 96.4 mg | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-[4-(2-methoxyethoxy)phenyl]-6-[(2-phenyl-1,3-thiazol-4-yl)methyl -sulphanyl]pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCOC)C#N)SCC=1N=C(SC1)C1=CC=CC=C1 | C26H21N5O2S2
